US08119666B2
To a solution of methyl thiosalicylate (4.0 g, 23.8 mmol) in DMF (25 mL) is added K2CO3 (4.0 g, 28.94 mmol) followed by methyl iodide (2.3 mL, 36.9 mmol). The resulting mixture is stirred at ambient temperature for 1 h. The mixture is diluted with EtOAc and washed with 1N HCl (3×) and water (1×). The organic phase is dried over MgSO4, filtered and concentrated to afford 2-methylsulfanylbenzoic acid methyl ester.

reactant | methyl thiosalicylate | 23.8 mmol, 4.0 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | K2CO3 | 28.94 mmol, 4.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 36.9 mmol, 2.3 mL | CI | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-methylsulfanylbenzoic acid methyl ester | COC(C1=C(C=CC=C1)SC)=O | C9H10O2S
